US06630492B1
To a stirred solution of 4.0 g (10 mmol) mevinolin in 20 ml pyridine at room temperature are added 20 ml acetic acid anhydride. After 1 h the reaction mixture is concentrated in-vacuo. The residue is dissolved with 10 ml methyl-t-butyl ether and washed successively with water, 0.1 N HCl and brine. The organic phase is then dried over sodium sulfate and the solvent removed in vacuo. The crude product is purified by silica gel chromatography (methyl-t-butyl ether 1/3) to afford 2-methyl-butyric acid 3,7-dimethyl-8-[2-(6-oxo-3,6-dihydro-2H-pyran-2-yl)-ethyl]-1,2,3,7,8,8a-hexahydro-naphthalen-1-yl ester) as a white powder.

reactant | mevinolin | 10 mmol, 4.0 g | CC[C@H](C)C(=O)O[C@H]1C[C@H](C=C2[C@H]1[C@H]([C@H](C=C2)C)CC[C@@H]3C[C@H](CC(=O)O3)O)C | C24H36O5
reactant | acetic acid anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-methyl-butyric acid 3,7-dimethyl-8-[2-(6-oxo-3,6-dihydro-2H-pyran-2-yl)-ethyl]-1,2,3,7,8,8a-hexahydro-naphthalen-1-yl ester | CC1CC(C2C(C(C=CC2=C1)C)CCC1OC(C=CC1)=O)OC(C(CC)C)=O | C24H34O4
